US06872718B1
2,5-Dimethyl-N-(2-methyl-2-propenyl)benzeneamine
To a solution of N-(2,5-dimethylphenyl)-2,2,2-trifluoroacetoamide (5.87 g, 27.0 mmol) in acetone (50 ml) were added potassium iodide (4.49 g 27.0 mmol), 3-chloro-2-methyl-1-propene (8.0 ml, 81 mmol) and pulverized 85% potassium hydroxide (5.3 g, 80 mmol), and the mixture was heated under reflux for 1 hour. Water was added to the reaction mixture and the mixture was extracted twice with hexane. The organic layers were combined, washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=100:1, followed by 50:1) to obtain 4.11 g of the title compound.

reactant | N-(2,5-dimethylphenyl)-2,2,2-trifluoroacetoamide | 27.0 mmol, 5.87 g | CC1=C(C=C(C=C1)C)NC(C(F)(F)F)=O | C10H10F3NO
reactant | potassium iodide | 27.0 mmol, 4.49 g | [I-].[K+]
reactant | 3-chloro-2-methyl-1-propene | 81 mmol, 8.0 ml | ClCC(=C)C | C4H7Cl
reactant | potassium hydroxide | 80 mmol, 5.3 g | [OH-].[K+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | Water | O | H2O
product | 2,5-Dimethyl-N-(2-methyl-2-propenyl)benzeneamine | 4.11 g, Yield: 87% | CC1=C(C=C(C=C1)C)NCC(=C)C | C12H17N
